US04007189
8-tert-Butyl-6,7-dihydro-7-ethyl-5-methyl-8H-pyrrolo-[3,2-e]-s-triazolo[1,5-a]pyrimidine Hydrochloride Hydrate
A mixture of 2.6g of 7-chloro-6-(2-chlorobutyl)-5-methyl-s-triazolo[1,5-a]pyrimidine, 0.9g of tertbutylamine, 1.8g of sodium carbonate and 20 ml of ethanol was stirred at room temperature for 1 hour and then refluxed for 5 hours. The reaction mixture was thereafter treated by the same manner as described in Example 10. The crystals thus obtained were recrystallized from isopropyl alcohol-isopropyl ether to give 400 mg of pale yellow crystals of m.p. 170° C (decomp).

reactant | 7-chloro-6-(2-chlorobutyl)-5-methyl-s-triazolo[1,5-a]pyrimidine | 2.6g | ClC1=C(C(=NC=2N1N=CN2)C)CC(CC)Cl | C10H12Cl2N4
reactant | tertbutylamine | 0.9g | C(C)(C)(C)N | C4H11N
reactant | sodium carbonate | 1.8g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 8-tert-Butyl-6,7-dihydro-7-ethyl-5-methyl-8H-pyrrolo-[3,2-e]-s-triazolo[1,5-a]pyrimidine Hydrochloride Hydrate | 400 mg | O.Cl.C(C)(C)(C)N1C(CC=2C(=NC=3N(C21)N=CN3)C)CC | InChI=1S/C14H21N5.ClH.H2O/c1-6-10-7-11-9(2)17-13-15-8-16-19(13)12(11)18(10)14(3,4)5;;/h8,10H,6-7H2,1-5H3;1H;1H2
